US07615562B2
Step B: 5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid
5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid ethyl ester (4.90 g, 12.6 mmol) were dissolved in methanol (50 ml). After addition of sodium hydroxide (31 ml of a 40% solution) the mixture was stirred at room temperature overnight. The reaction mixture was acidified using 1N HCl and the product was collected by filtration (4.50 g, 12.5 mmol).

reactant | 5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid ethyl ester | 12.6 mmol, 4.90 g | C(C)OC(=O)C=1SC(=CC1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C20H28N4O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophene-2-carboxylic acid | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O)(C)C)C | C18H24N4O2S
